Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ PMH hypothyroidism, no cardiac hx, who presents with chest
pain and non-specific EKG changes.

The patient has been experiencing this particular pain for ~6
months, during which she has experienced it 3 times. This is
non-exertional tightness that occurs in a band under the breasts
bilaterally and is accompanied by dyspnea, nausea, and radiates
to the neck. The discomfort goes away spontaneously within 5
minutes every time. She experienced this symptoms on ___
morning (5 min) and then they were so bad that they woke her 
from
sleep at 3 AM last night. Her doctor told her to present to the
ED. She has no chest pain in the ED and the nitro that she
received did not affect the way she felt. Denies recent fevers,
chills, shortness of breath, cough, vomiting, diarrhea, leg
swelling, personal history of heart disease, family history of
heart disease aside from above. 

In the ED initial vitals were:  98.3 70 135/75 18 99% RA 

EKG: Sinus 62, NL axis, Q3, TWI 3, TWI V3, TWF V4-V5

Labs/studies notable for:  
Trop-T: <0.01
143  ___   AGap=14 
=============
4.0  23  0.7  

5.9 > 13.9 < 206 
      41.5  

CTA CHEST: 
1. Motion limited exam. No evidence of acute central pulmonary
embolism or aortic abnormality.
2. Mild cardiomegaly. No pulmonary edema or pleural effusion.
3. 9 mm right upper outer breast/axilla soft tissue nodule of
uncertain etiology. Recommend dedicated imaging with mammography
and/or ultrasound if not already performed to further evaluate.
4. Indeterminate 8-mm left T8 vertebral body sclerotic lesion,
could be a bone island.
5. 8 mm hypodense right thyroid nodule. Given small size and
patient age, no specific imaging follow-up is required unless 
the
patient has specific risk
factors.

CXR:
Mild cardiomegaly, pectus excavatum deformity of the sternum,
otherwise unremarkable. 

Patient was given:  Nitro 0.4mg, Diphenhydramine 25mg

Vitals on transfer: 97.9 72 111/63 18 99% RA 

On the floor patient is completely asymptomatic. She tells me 
she
did not think that she was having a heart attack and she is only
here because her doctor told her to. 

REVIEW OF SYSTEMS:  
Complete ROS obtained and is otherwise negative.
 
Past Medical History:
Hypothyroidism 
Colon adenoma (last ___ normal bx in ___

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
Admission Exam: 
============
VITALS:  97.6 131/85 62 16 100 RA 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor.  
NECK: Supple with JVP wnl.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles,
wheezes or rhonchi. 
ABDOMEN: Soft, NTND. No tenderness.  
EXTREMITIES: No c/c/e.
SKIN: No lesions, WWP.  
PULSES: Distal pulses palpable and symmetric 

Discharge Exam: 
============
VITALS: T 97.8  BP 116 / 73HR 78 RR 16SO2 96 RA
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva pink, no
pallor.  
NECK: Supple with JVP wnl.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops.
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles,
wheezes or rhonchi. 
ABDOMEN: Soft, NTND. No tenderness.  
EXTREMITIES: No c/c/e.
SKIN: No lesions, WWP.  
PULSES: radialis and dorsalis pedis pulses palpable bilaterally

 
Pertinent Results:
Labs on Admission: 
==============
___ 01:47PM BLOOD WBC-5.9 RBC-4.66 Hgb-13.9 Hct-41.5 MCV-89 
MCH-29.8 MCHC-33.5 RDW-12.4 RDWSD-40.4 Plt ___
___ 01:47PM BLOOD Neuts-51.2 ___ Monos-5.6 Eos-6.3 
Baso-0.8 Im ___ AbsNeut-3.03 AbsLymp-2.12 AbsMono-0.33 
AbsEos-0.37 AbsBaso-0.05
___ 01:47PM BLOOD Plt ___
___ 01:47PM BLOOD Glucose-98 UreaN-13 Creat-0.7 Na-143 
K-4.0 Cl-106 HCO3-23 AnGap-14
___ 01:47PM BLOOD cTropnT-<0.01
___ 05:43PM BLOOD cTropnT-<0.01

Labs on Discharge:
==============
___ 05:25AM BLOOD WBC-4.8 RBC-4.61 Hgb-13.6 Hct-41.1 MCV-89 
MCH-29.5 MCHC-33.1 RDW-12.5 RDWSD-40.6 Plt ___
___ 05:25AM BLOOD ___
___ 05:25AM BLOOD Glucose-84 UreaN-17 Creat-0.9 Na-142 
K-4.4 Cl-107 HCO3-23 AnGap-12
___ 05:25AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 05:25AM BLOOD Calcium-8.8 Phos-4.5 Mg-2.4 Cholest-133
___ 05:25AM BLOOD Triglyc-44 HDL-77 CHOL/HD-1.7 LDLcalc-47

Imaging:
======
___:
INTERPRETATION: This ___ yo woman was referred to the lab from 
the
inpatient floor following negative serial cardiac enzymes for 
evaluation
of chest discomfort and abnormal EKG. The patient exercised for 
10
minutes of ___ protocol and was stopped for fatigue. The 
estimated
peak MET capacity was 11, which represents a good exercise 
tolerance for
her age. There were no reports of chest, back, neck, or arm 
discomforts
during the study. There were no significant ST changes noted 
during
exercise. The baseline NSSTTWs normalized during exercise and 
returned
back to baseline during recovery. However by 9 minutes of 
recovery,
0.5-___epression was noted in the inferior 
leads and
V4-V6. These changes resolved back to baseline by 18 minutes of 
recovry.
Rhythm was sinus with rare isolated APBs and one VPB. There was 
an
appropriate heart rate and blood pressure response during 
exercise and
recovery.
IMPRESSION: Borderline ischemic EKG changes during recovery in 
the
absence of anginal type symptoms. Good functional capacity.
  
___ CHEST:
1.  No evidence of acute pulmonary embolism to the proximal 
segmental level. 
No aortic abnormality.
2.  No pulmonary edema or pleural effusion.
3.  9 mm right upper outer breast/axilla soft tissue nodule of 
uncertain
etiology though likely a lymph node.  Recommend dedicated 
imaging with
mammography and/or ultrasound if not already performed to 
further evaluate.
4.  Indeterminate 8-mm left T8 vertebral body sclerotic lesion, 
likely a bone
island.
   
___ (PA & LAT):
Mild cardiomegaly, pectus excavatum deformity of the sternum, 
otherwise
unremarkable.

 
Brief Hospital Course:
Ms. ___ is a ___ yo F c a PMH of hypothyroidism, no cardiac 
history, who presented with chest pain and non-specific EKG 
change. 

#Chest Pain:
History is atypical for ischemia with non-specific EKG changes.
A CT was negative for PE or aortic disease. Serial troponin 
levels were normal. 
She underwent exercise tolerance testing. The patient was 
asymptomatic during the study and there were no significant ST 
changes noted.
The patient was discharged to follow-up with her primary care 
physician for referral for outpatient stress echocardiography. 
The patient was instructed to immediately return to the 
emergency department for recurrent chest pain. 

#Incidental Findings: 
- A right upper outer breast/axilla soft tissue nodule of 
uncertain
etiology was noted on CT imaging. Recommend dedicated imaging 
with mammography and/or ultrasound if not already performed to 
further evaluate. 

- An 8 mm hypodense right thyroid nodule was noted on CT 
imaging. Given small size and patient age, no specific imaging 
follow-up is required unless the
patient has specific risk factors. 

Transitional Issues: 
====================
[] patient needs outpatient stress echocardiography
[] patient needs mammography and/or ultrasound for right upper 
outer breast/axilla soft tissue nodule 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 25 mcg PO DAILY 

 
Discharge Medications:
1.  Levothyroxine Sodium 25 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You presented to the hospital after an episode of chest pain. 
Serial blood test were reassuring for NO signs of an acute 
myocardial infarction (heart attack). An exercise tolerance test 
was reassuring as you did not experience any symptoms while you 
where exercising and the EKG did not show signs of inadequate 
blood supply to your heart. 

Please follow-up with your primary care physician ___ 4 days 
of discharge for an outpatient stress echocardiogram. 

Please present to the emergency department for recurrent chest 
pain. 

It was a pleasure providing care for you! We wish you the best 
in your health!

Sincerely, your ___ CARDIOLOGY team!
 
Followup Instructions:
___